2172-10-23 07:15:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   -EGD showed friability at site of anastamosis which was injected and
   blood in stomach.  Varices were noted in the lower third of the
   esophagus.
   - GI recommending repeat EGD with EUS when bleeding stops to evaluate
   for ulcers
   - could not get PICC due to long line for PICC
   - octreotide drip stopped because there was no evidence of bleeding
   varices
   - GI recommended checking a gastrin level
   - Hct 31.1 --> 28.8 --> 1 unit PRBCs --> 30.5 --> 29.0 --> 1 unit PRBCs
   - Hypernatremia improved with D5W 151 --> 147
   - Echo performed: Normal global biventricular systolic function.
   Limited study
   - iron studies show iron deficiency anemia so started on iron
   supplements
   *will need PICC placement or Left IJ today *
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2172-10-22**] 09:30 AM
   Midazolam (Versed) - [**2172-10-22**] 10:00 AM
   Morphine Sulfate - [**2172-10-23**] 04:37 AM
   Other medications:
   Ferrous Sulfate 325 daily
   MVI
   Morphine [**1-13**] IV q 4 prn
   Digoxin 0.125  daily
   Methadone 5 mg TID
   Pantoprazole drip
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-23**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 88 (85 - 121) bpm
   BP: 114/65(76) {91/48(66) - 137/103(109)} mmHg
   RR: 12 (10 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
    CVP: -5 (-12 - 25)mmHg
   Total In:
                                                                  2,744 mL
                                                                  1,601 mL
   PO:
   TF:
   IVF:
                                                                  2,184 mL
                                                                  1,424 mL
   Blood products:
                                                                    560 mL
                                                                    177 mL
   Total out:
                                                                  1,420 mL
                                                                    730 mL
   Urine:
                                                                  1,420 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,324 mL
                                                                    875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, + mild left sided tenderness
   (chronic)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   105 K/uL
   10.2 g/dL
   156 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   20 mg/dL
   109 mEq/L
   142 mEq/L
   29.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2172-10-22**]  03:17 AM
                            [**2172-10-22**]  08:32 AM
                            [**2172-10-22**]  12:31 PM
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
   WBC
   11.9
   12.0
   12.7
   12.7
   11.5
   Hct
   28.5
   31.1
   28.8
   30.5
   29.0
   Plt
   125
   129
   108
   110
   105
   Cr
   0.9
   0.9
   0.9
   TropT
   0.01
   0.01
   0.07
   0.02
   Glucose
   105
   131
   156
   Other labs: PT / PTT / INR:14.5/30.0/1.3, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:40/32, Alk Phos / T Bili:39/0.8,
   Amylase / Lipase:/27, Differential-Neuts:79.5 %, Lymph:11.0 %, Mono:7.8
   %, Eos:1.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:273 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site now with
   significant abdominal pain concerning for SBO.
   UGIB.  Patient with ongoing slow bleed, requiring daily transusions.
   Unable to place peripheral IVs.  Has RIJ placed at OSH which will need
   to be pulled and replaced with IR guided PICC.  With melena and BRBPR
   in a cirrhotic patient.  Also with extensive history of PUD and
   multiple abdominal surgeries.  Initial EGD reportedly without varices
   or clear causes of bleeding.  Also awaiting CT abdomen and bleeding
   scan report (being faxed from [**Hospital1 632**]; CD/images not sent with him.
   - Liver consult and likely EGD (overnight if unstable, otherwise in
   AM).
   - If no source from EGD, will need further bleeding workup (repeat
   tagged RBC scan, colonoscopy, surgery consult).
   - Consider NGT and NGL (patient currently quite resistant to NGT
   placement while awake).
   - PPI gtt.
   - Octreotide gtt until varices ruled out.
   - No ascites per exam and CT findings, no SBP prophylaxis needed.
   - Type and screen, crossmatch 4 units.  Will transfuse for hematocrit <
   30.
   - Q4H hct and platelets.
   - Goal platelets > 50K, INR < 1.5.
   - Bolus IVFs/blood for hypotension/tachycardia; hold antihypertensives.
   .
   # Abdominal pain.  Patient also with GIB as above, though pain has been
   unchanged from baseline chronic abdominal pain thought related to
   chronic pancreatitis.  Extensive abdominal surgeries in history.
   Patient reports being told that surgeries would not be recommended
   given his history, but if there was a problem that could only be
   managed surgically, he would pursue this is he were a candidate.  CT
   abdomen at OSH on [**10-18**] with some concern for air within stomach
   wall/contained perforation vs. trapped within folds.  Had subsequent
   EGD that was unremarkable.  Abdomen currently tender but soft, no
   rigidity or rebound, per patient at baseline chronic pain.
   - obtain CT images vs. repeat here; holding off currently in
   anticipation of EGD here early AM.
   - may need eventual surgical consult.  Not currently with surgical
   abdomen.
   .
   # Afib.  Currently rate controlled.
   - Check echocardiogram.
   - Can continue digoxin; hold other nodal agents for time being.  Check
   digoxin level.
   - Would prefer to bolus IVFs or given blood initially to manage
   tachycardia, as will ongoing bleeding and likely intravascularly dry.
   .
   # Cirrhosis.  Presumed EtOH related.  Unclear prior workup.
   - Liver consult.
   - Collateral information.
   .
   # EtOH abuse. Sober x 10 years plus.
   - Multivitamin.
   .
   # Anemia.  Predominantly acute blood loss anemia.
   - Check B12, folate, Fe studies, TSH.
   # Thrombocytopenia.  Currently 125.  200 at OSH admission, down to 60
   with requirement of platelet transfusions.  Consumption with active
   bleed vs. iver disease vs. hypersplenism (but CT report notes
history
   of splenectomy
 in clinical history), also consider bone marrow
   suppression, med related.  No heparin exposures.  On PPI, no H2
   blockers.
   - Continue to trend.
   - Transfuse platelets <50, higher threshold if briskly bleeding.
   .
   # Renal insufficiency.  Creatinine now improved, was up to ~1.9 at
   OSH.  Contrast on [**10-18**].  Per past labs, 0.9 appears to be at baseline.
   - Continue to monitor.
   .
   # Hypernatremia.  Na up to 157 at OSH today, improved to 151 here after
   getting some D5W at 70/h.
   - Continue D5W for ~2 L further (free water deficit likely greater than
   this).
   .
   # Leukocytosis.  No evidence of infection.  [**Month (only) 11**] be stress response.
   - Blood and urine cultures.
   - CXR without infiltrate.
   - Elect to hold further antibiotic therapy (received ~5 days of Zosyn
   at OSH).
   .
   # Chronic pain.  continue home regimen of methadone; morphine prn.
   .
   # Weight loss.  Patient cachectic; reports weight loss of 10 pounds in
   last week, though nothing before that; unclear baseline weight.
   - checking thyroid.
   - consent for HIV.
   - EGD with biopsy, other malignancy workup likely following acute
   bleed.
   ICU Care
   Nutrition:
   Comments: NPO, D5W for hydration
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-10-22**] 06:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2172-10-24 07:16:00 Physician Attending Progress Note
Chief Complaint: GIB
   HPI:
   64 M with history of cirrhosis presumed due to EtOH, PUD s/p past
   Billroth [**Hospital 2098**] transfer from [**Hospital3 1492**] with melena and BRBPR.
   Patient was admitted on [**2172-10-16**] with melena and BRBPR x 2 days.  Also
   associated with crampy abdominal pain and nausea.  Initial hematocrit
   26.5, INR 1.8, developed thrombocytopenia to 60s as well.  Had EGD in
   ED which showed no varices, obvious ulcers or tears.  Source thought to
   be "dusky" patch in stomach. Stomach filled with blood and unable to
   visualize duodenum.  Per HO report 6 units PRBCs given in addition to 2
   units FFP (though nursing reports 10 units PRBCs, FFP and platelets).
   Per notes, repeat EGD performed [**10-20**].  Bright red blood in gastric
   reminant without ulceration seen.  Also appears to have had bleeding
   scan performed with results unavailable currently. Continued to have
   evidence of bleeding during hospital course; HO reported cessation of
   bleeding and then restart, though not clear from notes.  Patient has
   complained of epigastric area abdominal pain, but nothing out of
   ordinary from usual chronic abdominal pain.  Denies hematemesis.  No
   chest pain or shortness of breath.  + occasional palps.  Denies
   abdominal swelling/ascites.  Patient also with Afib with RVR (to 160)
   on presentation requiring diltiazem gtt with eventual transition to
   dilt PO and digoxin PO.  [**Hospital1 632**] notes some hypotension (as low as 84/50
   seen in notes) but not requiring pressors at any time.
   24 Hour Events:
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-10-24**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   PMH
   - Cirrhosis [**1-11**] EtOH.  Noted to have grade I varices on [**2160**] endoscopy
   report, none in [**2166**] (though did have gastric varices).
   - h/o Billroth II for PUD "many years ago" and about 5 abdominal
   surgeries (between age 20 and ~[**2153**])
   - Recurrent UGIB with PUD as above.  Reports last GI bleeding about 10
   years ago, but OSH notes with melena and hematocrit drop (49 down to
   24), found to have gastritis without ulcer or varices on EGD.
   - History of EtOH abuse, none since ~[**2153**].
   - Chronic pain of bilateral arms (thought due to OA) and abdomen.
   - Atrial fibrillation. On coumadin in the past.
   - Depression, psychosis
   - history of DVT and s/p IVC filter placement
   - chronic pancreatitis, history of pseudocyst with resection.
   - HTN
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-24**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 86 (74 - 95) bpm
   BP: 120/81(91) {112/63(79) - 138/91(102)} mmHg
   RR: 15 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  4,922 mL
                                                                    918 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  4,072 mL
                                                                    920 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,000 mL
                                                                  2,070 mL
   Urine:
                                                                  3,000 mL
                                                                  2,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,922 mL
                                                                 -1,150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, temporal wasting
   Eyes / Conjunctiva: PERRL, poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Bowel sounds present, Tender: LUQ
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice, no
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   119 K/uL
   116 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   12 mg/dL
   112 mEq/L
   146 mEq/L
   32.1 %
   10.1 K/uL
         [image002.jpg]
                            [**2172-10-22**]  03:17 AM
                            [**2172-10-22**]  08:32 AM
                            [**2172-10-22**]  12:31 PM
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
   WBC
   11.9
   12.0
   12.7
   12.7
   11.5
   11.1
   10.1
   Hct
   28.5
   31.1
   28.8
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   Plt
   125
   129
   108
   110
   105
   114
   119
   Cr
   0.9
   0.9
   0.9
   0.8
   TropT
   0.01
   0.01
   0.07
   0.02
   Glucose
   105
   131
   156
   116
   Other labs: PT / PTT / INR:14.1/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:34/31, Alk Phos / T Bili:43/0.8,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL,
   LDH:311 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed  with PUD and varices [**1-11**] EtOH as
   potential etiologies.
   >UGIB.  Concerning for variceal bleed vs PUD given his above hx. GI
   will plan to perform a UGI today. We will work to obtain the OSH
   records (actual CT scan would be helpful).  The EGD revealed some small
   amount of oozing at the Billroth anas site and some varices (Grade I).
   There is no plan for further intervention at this point unless he
   decompensates (actively bleeds at which point we can consider
   re-imaging vs tagged rbc. He conts to bleed slowly with drift down in
   the Hct.  He has a marked increase in LUQ tenderness and mid epigastric
   tenderness. Will check plain film to further evaluate, we would be
   concerned for illeus vs SBO.  Would also be concerned for evolving
   pancreatitis.
   - Will further evaluate the abdominal pain as above.
   - F/u gastrin level
   - Hct> 30, Plt >50, INR <1.5 q 8hrs Hct checks until stable.   Type and
   screen, crossmatch 4 units
   - PPI gtt.
   - Goal platelets > 50K, INR < 1.5.
   - Bolus IVFs/blood for hypotension/tachycardia; hold antihypertensives.
   - check lactate and lipase/amylase
   .
   > Afib / ST seg depression.; likely appropriate tachycardia given his
   drop in Hct, although Afib will no doubt complicate our ability to
   maintain BP Currently rate controlled. The ST seg drepession were not
   present on [**2172-10-18**], this may be from his Afib wth RVR , although now he
   is rate controlled at present, compuded by low Hct. The ECG has not
   changed [**10-23**] and his TTE is grossly normal and his enzymes have
   trended down.
   - Can continue digoxin; hold other nodal agents for time being.
   >Cirrhosis.  Presumed EtOH related.
   - F/u liver reccomendations.
   > EtOH abuse. Sober x 10 years plus, no evidence of withdrawl
   - Multivitamin.
   >Thrombocytopenia.  Currently 125.  200 at OSH admission, down to 60
   with requirement of platelet transfusions.  Consumption with active
   bleed vs. iver disease vs. hypersplenism (but CT report notes
history
   of splenectomy
 in clinical history and pt thinks he has ), also
   consider bone marrow suppression, med related.  No heparin exposures.
   On PPI, no H2 blockers.
   - Continue to trend.
   - Transfuse platelets <50, higher threshold if briskly bleeding.
   .
   > Renal insufficiency.  Creatinine now improved, was up to ~1.9 at
   OSH.  Contrast on [**10-18**].  Per past labs, 0.9 appears to be at baseline.
   - Continue to monitor.
   .> Hypernatremia: has improved with IV hydration.
   > Chronic pain.  continue home regimen of methadone; morphine prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-10-22**] 06:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2172-10-24 07:46:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   Bedside PICC could not be placed
   Attempted LIJ without success, would not thread, kept OSH RIJ, PICC to
   be placed over weekend into Monday
   KUB did not show free air
   CT abd with PO contrast - "free air in mesentary" - called surgery
   consult, started iv fluc and zosyn for possible extravasation of PO
   contrast into abdomen
   Sent off SPEP/UPEP for low anion gap
   OSH ct scan taken down to radiology, logged into computer
   HCT stable at 32 --> 30 --> 32 PM of [**10-23**] into am [**10-24**]
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-24**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-24**] 07:40 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2172-10-24**] 01:45 AM
   Other medications: Digoxin, MVI, KPHos
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-24**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 76 (74 - 95) bpm (AF)
   BP: 137/87(99) {112/63(79) - 138/91(102)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 97% on RA
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  4,923 mL
                                                                  1,099 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  4,073 mL
                                                                  1,099 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,000 mL
                                                                  2,070 mL
   Urine:
                                                                  3,000 mL
                                                                  2,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,923 mL
                                                                   -971 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Emaciated, temporal wasting, alert.
   Eyes / Conjunctiva: PERRL, anicteric sclera
   Head, Ears, Nose, Throat: slightly dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: in all
   4 quadrants with most pain in LUQ with concern for rebound tenderness
   Extremities: [**12-11**]+ LE edema and 2+ LUE edema
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Oriented to [**Hospital1 1**],
   [**2172-10-10**] (off on date)
   Labs / Radiology
   119 K/uL
   11.0 g/dL
   116 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   12 mg/dL
   112 mEq/L
   146 mEq/L
   32.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2172-10-22**]  03:17 AM
                            [**2172-10-22**]  08:32 AM
                            [**2172-10-22**]  12:31 PM
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
   WBC
   11.9
   12.0
   12.7
   12.7
   11.5
   11.1
   10.1
   Hct
   28.5
   31.1
   28.8
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   Plt
   125
   129
   108
   110
   105
   114
   119
   Cr
   0.9
   0.9
   0.9
   0.8
   TropT
   0.01
   0.01
   0.07
   0.02
   Glucose
   105
   131
   156
   116
   Other labs: PT / PTT / INR:14.1/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:34/31, Alk Phos / T Bili:43/0.8,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL,
   LDH:311 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with ongoing
   abdominal pain and concern of microperforation.
   # UGIB.  s/p EGD at admission here - source ?anastamosis site which was
   friable.  Also had one cord of grade 1 esophageal varices.   Remains on
   PPI drip.  Unable to place peripheral IVs.  Has RIJ placed at OSH which
   will need to be pulled and replaced with IR guided PICC.    No
   transfusions x 24 hours with stable Hct
   - continue PPI drip, will d/w liver re: change to bolus dosing.
   - surgery following
   - [**Hospital1 **]-TID Hcts
   - Access
 retry CVL vs. waiting for Monday for PICC vs. retry
   peripherals.
   - liver following
   - Bolus IVFs/blood for hypotension/tachycardia; hold antihypertensives.
   .
   # ?Air in mesentery.  Concern for microperforations, per surgery,
   perhaps related to scope trauma from OSH EGD.  Managing conservatively
   given extensive abdominal surgeries in past, would be difficult
   procedure.
   -          appreciate surgery recs.
   -          Serial abdominal exams
   -          Repeat CT vs. KUB for change in exam.
   -          NPO for today.
   .
   # Abdominal pain.  Patient has chronic abdominal pain secondary to
   pancreatitis, but with concern for microperforation as above.
   - surgery following.
   - NPO for today
   - minimize opioids
   .
   # Afib.   Remains in A. fib, but currently rate controlled.  TTE
   performed this admission.
   - continue digoxin; hold other nodal agents for now
   .
   # Cirrhosis.  Well compensated cirrhosis, presumed alcoholic related.
   Unclear prior workup.
   - Liver following
   - Collateral information if any, ?need to repeat any workup re:
   etiology
   .
   # Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   # Thrombocytopenia.  200 at OSH admission, down to 60 with requirement
   of platelet transfusions.  Consumption with active bleed vs. liver
   disease vs. also consider bone marrow suppression, med related.  No
   heparin exposures.  On PPI, no H2 blockers.
   - Continue to trend.
   - Transfuse platelets <50, higher threshold if briskly bleeding.
   .
   # Renal insufficiency.  Creatinine now improved, was up to ~1.9 at
   OSH.  Contrast on [**10-18**].  Per past labs, 0.9 appears to be at baseline.
   - Continue to monitor.
   .
   # Hypernatremia.   Resolved with D5W, but back up some today.  Getting
   some D5W, some D51/2, rechecking this afternoon.
   ICU Care
   Nutrition: NPO, TPN when line available (Mon?)
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2172-10-22**] 06:38 AM (OSH). Unable to change. Plan for
   PICC on MON (IR) or SC line by us this weekend
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI drip
   VAP:  n/a
   Comments:
   Communication:  Comments: wife and daughters
   [**Name (NI) 129**] status: DNR/DNI
   Disposition:ICU

2172-10-25 07:34:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - Surgery: no plan for surgical intervention, likely trauma from first
   EGD.  Rec fluconazole and zosyn (continued).
   - Hct stable 32.1 --> 32.3 -->  32.6
   - Na improved 146 --> 143 --> 142
   - PPI changed from gtt to bolus IV BID.
   - PIVs: 18g x 2 in right arm placed and blown
   - UE ultrasound for LUE swelling: extensive clot burden including R SC
   clot, bilat brachial clots.  OSH Right RIJ still in place.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-24**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-25**] 12:10 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-10-25**] 12:00 AM
   Other medications:
   Pantoprazole IV BID
   Morphine PRN
   Zosyn (d1 = [**10-24**])
   Fluconazole (d1 = [**10-24**])
   Zofran prn
   Ferrous sulfate
   MVI
   Digoxin 0.125 daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-25**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 71 (68 - 99) bpm
   BP: 153/94(94) {121/72(67) - 163/97(107)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,119 mL
                                                                    664 mL
   PO:
             TF:
   IVF:
                                                                  3,119 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                  1,480 mL
   Urine:
                                                                  3,715 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                   -816 mL
   Respiratory support
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   11.0 g/dL
   113 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   145 mEq/L
   32.2 %
   11.1 K/uL
        [image002.jpg]
                            [**2172-10-22**]  12:31 PM
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
   WBC
   12.7
   12.7
   11.5
   11.1
   10.1
   11.1
   Hct
   28.8
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   Plt
   108
   110
   105
   114
   119
   153
   Cr
   0.9
   0.9
   0.8
   1.0
   TropT
   0.01
   0.07
   0.02
   Glucose
   131
   156
   116
   113
   Other labs: PT / PTT / INR:14.0/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with
   microperforation of bowel.
   1.  UGIB.  Bleeding source may be friability at anastamosis site from
   prior bilroth surgery.  Hct stable.  Now on [**Hospital1 **] PPI IV.  No
   transfusiosn in > 48 hours.
   - IV PPI [**Hospital1 **]
   - surgery following
   - [**Hospital1 **] Hcts
   - Access
 retry CVL vs. waiting for Monday for PICC vs. retry
   peripherals.
   - liver following
   - Bolus IVFs/blood for hypotension/tachycardia; hold antihypertensives.
   .
   2.  Air in mesentery.  Concern for microperforations, per surgery,
   perhaps related to scope trauma from OSH EGD.  NPO for three days now.
   Abominal exam improving, but will continue NPO for now. If he remains
   NPO for several more days, will need TPN.  Managing conservatively
   given extensive abdominal surgeries in past, would be difficult
   procedure.
   -          appreciate surgery recs.
   -          Serial abdominal exams
   -          Repeat CT vs. KUB for change in exam.
   -          NPO for today.
   .
   3.       B/l upper extremity clots.  Patient has significant clot
   burden, making line placement difficult.  Unable to anticoagulate at
   present due to GIB.  Cachexia, weight loss, and extensive clot burden
   concerning for malignancy.
   -no anticoagulation in setting of GI bleed
   - outpatient age appropriate cancer screening
   3. Abdominal pain.  Patient has chronic abdominal pain secondary to
   pancreatitis, but with concern for microperforation as above.
   - surgery following.
   - NPO for today
   - minimize opioids
   .
   4.   Afib.   Remains in A. fib, but currently rate controlled.  TTE
   performed this admission.  Not anticoagulated due to GIB.
   - continue digoxin; hold other nodal agents for now
   .
   5.  Cirrhosis.  Well compensated cirrhosis, presumed alcoholic
   related.  Unclear prior workup.
   - Liver following
   - Collateral information if any, ?need to repeat any workup re:
   etiology
   .
   6.  Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   7.  Thrombocytopenia.  200 at OSH admission, down to 60 with
   requirement of platelet transfusions.  Consumption with active bleed
   vs. liver disease vs. also consider bone marrow suppression, med
   related.  No heparin exposures.  On PPI, no H2 blockers.
   - Continue to trend.
   - Transfuse platelets <50, higher threshold if briskly bleeding.
   8.   Renal insufficiency.  Creatinine now improved, was up to ~1.9 at
   OSH.  Contrast on [**10-18**].  Per past labs, 0.9 appears to be at baseline.
   - Continue to monitor.
   .
   ICU Care
   Nutrition:NPO
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2172-10-22**] 06:38 AM
   Prophylaxis:
   DVT: none, GIB
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: transfer to floor

2172-10-25 07:35:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-24**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-25**] 12:10 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-10-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-25**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 71 (68 - 99) bpm
   BP: 153/94(94) {121/72(67) - 163/97(107)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,119 mL
                                                                    667 mL
   PO:
             TF:
   IVF:
                                                                  3,119 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                  1,480 mL
   Urine:
                                                                  3,715 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                   -813 mL
   Respiratory support
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : bases, Diminished: bases)
   Abdominal: Soft, Bowel sounds present, Tender:
   Extremities: Right: 1+, Left: 1+, B/L L>R UE edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   153 K/uL
   113 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   145 mEq/L
   32.2 %
   11.1 K/uL
        [image002.jpg]
                            [**2172-10-22**]  12:31 PM
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
   WBC
   12.7
   12.7
   11.5
   11.1
   10.1
   11.1
   Hct
   28.8
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   Plt
   108
   110
   105
   114
   119
   153
   Cr
   0.9
   0.9
   0.8
   1.0
   TropT
   0.01
   0.07
   0.02
   Glucose
   131
   156
   116
   113
   Other labs: PT / PTT / INR:14.0/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site now with
   significant abdominal pain. The source of GI bleed is not clear but
   prime suspect is the anastomotic site with concern of possible
   dehiscence with contrast and air leak suggested by CT. His HCT is
   stable x 24 hrs and hemodynamically he is stable.
   GIB: likely from site of gastro-jejunal anastomosis
   -Continue PPI,
   -plans for repeat EGD in near future
 await GI to see thia afternoon
   and indicate timing.
   -Surgery following closely
   -Monitor HCT Q8 today
   Abd pain: Waxes and wanes in severity,  ? anastomotic micro perf
   -On Abx/antifungal for possible anastamotic microperf
   -Conservative management per surgery (appreciate input)
   -Will start TPN for anticipated long-NPO (may need to bridge with PPN
   while working on IV access)
   Afib.   Remains in A. fib, but currently rate controlled.
   - echocardiogram WNL
 Continue digoxin; hold other nodal agents for
   now
   .
   Cirrhosis.  Well compensated cirrhosis, presumed alcoholic related.
   Unclear prior workup.
   - Liver consult following. EtOH abuse. Sober x 10 years plus.-
   Multivitamin.
   .
   Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   Thrombocytopenia.  200 at OSH admission, down to 60 with requirement of
   platelet transfusions.  Consumption with active bleed vs. iver disease
   vs. hypersplenism (but CT report notes
history of splenectomy
   clinical history), also consider bone marrow suppression, med related.
   No heparin exposures.  On PPI, no H2 blockers. PLT count improving.
   - Continue to trend.
   - Transfuse platelets <50, higher threshold if briskly bleeding.
   LUE asymmetric edema
   -Check for DVT
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-10-22**] 06:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: